US06548671B2
Quinoxaline-2-carboxylic acid [4-(acetylimino-amino-methyl)-1-benzyl-7-fluoro-2-hydroxy-7-methyl-octyl]-amide
To a solution of 1.0 equivalents of quinoxaline-2-carboxylic acid (1-benzyl-4-carbamimidoyl-7-fluoro-2-hydroxy-7-methyl-octyl)-amide in methylene chloride is added 1.0 equivalents of triethylamine followed by 1.0 equivalents of acetyl chloride. The reaction is stirred at ambient temperature for approximately 5 hours. After standard aqueous work-up and extraction, followed by concentration and silica gel chromatography the title compound is obtained.

reactant | quinoxaline-2-carboxylic acid (1-benzyl-4-carbamimidoyl-7-fluoro-2-hydroxy-7-methyl-octyl)-amide | 1.0 equivalents | C(C1=CC=CC=C1)C(C(CC(CCC(C)(C)F)C(N)=N)O)NC(=O)C1=NC2=CC=CC=C2N=C1 | C26H32FN5O2
reactant | triethylamine | 1.0 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.0 equivalents | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Quinoxaline-2-carboxylic acid [4-(acetylimino-amino-methyl)-1-benzyl-7-fluoro-2-hydroxy-7-methyl-octyl]-amide | C(C)(=O)N=C(C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)O)CCC(C)(C)F)N | C28H34FN5O3
